US07049438B2
4-(3-chlorobenzofuran-7-ylamino)-7-(2-pyrrolidin-1-ylethoxy)-5-cyclopentyloxyquinazoline dihydrochloride
Using an analogous procedure to that described in Example 47, 4-chloro-5-cyclopentyloxy-7-(2-pyrrolidin-1-ylethoxy)quinazoline (0.1 g) was reacted with 7-amino-3-chlorobenzofuran (0.051 g) to give the title compound, as a dihydrochloride salt (0.074 g), a portion of which was converted into the free base using an analogous procedure to that described in Example 3. The free base gave the following characterising data: NMR Spectrum: (CDCl3) 1.7–1.8 (m, 2H), 1.8–2.0 (m, 6H), 2.1–2.3 (m, 4H), 2.7 (br s, 4H), 3.02 (m, 2H), 4.3 (t, 2H), 5.08 (m, 1H), 6.61 (d, 1H), 6.84 (d, 1H), 7.3–7.45 (m, 2H), 7.65 (s, 1H), 8.64 (s, 1H), 8.76 (d, 1H), 10.3 (s, 1H); Mass Spectrum: M+H+ 493 and 495.

reactant | 4-chloro-5-cyclopentyloxy-7-(2-pyrrolidin-1-ylethoxy)quinazoline | 0.1 g | ClC1=NC=NC2=CC(=CC(=C12)OC1CCCC1)OCCN1CCCC1 | C19H24ClN3O2
reactant | 7-amino-3-chlorobenzofuran | 0.051 g | NC1=CC=CC=2C(=COC21)Cl | C8H6ClNO
product | 4-(3-chlorobenzofuran-7-ylamino)-7-(2-pyrrolidin-1-ylethoxy)-5-cyclopentyloxyquinazoline dihydrochloride | Cl.Cl.ClC1=COC2=C1C=CC=C2NC2=NC=NC1=CC(=CC(=C21)OC2CCCC2)OCCN2CCCC2 | InChI=1S/C27H29ClN4O3.2ClH/c28-21-16-34-26-20(21)8-5-9-22(26)31-27-25-23(29-17-30-27)14-19(33-13-12-32-10-3-4-11-32)15-24(25)35-18-6-1-2-7-18;;/h5,8-9,14-18H,1-4,6-7,10-13H2,(H,29,30,31);2*1H
